US07175854B2
cinanserin;
fenclonine; fonazine mesilate; xylamidine tosylate.

reactant | fenclonine | C1=CC(=CC=C1CC(C(=O)O)N)Cl | C9H10ClNO2
reactant | fonazine | CC(CN1C=2C=CC=CC2SC3=C1C=C(C=C3)S(=O)(=O)N(C)C)N(C)C | C19H25N3O2S2
reactant | xylamidine tosylate | CC=1C=CC(=CC1)S(=O)(=O)O.CC1=CC=CC(=C1)CC(=N)NCC(C)OC2=CC=CC(=C2)OC
product | cinanserin | CN(C)CCCSC=1C=CC=CC1NC(=O)/C=C/C=2C=CC=CC2 | C20H24N2OS
